US07935725B2
Step C: (S,S)-2,5-Diaza-bicyclo[2.2.1]heptane-2-carboxylic acid amide hydrochloride.
To a solution of (S,S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (35.6 g, 179 mmol) in CH2Cl2 (600 mL) was added trimethylsilylisocyanate (82.5 g, 716 mmol). After 2 h at rt, the mixture was concentrated, and the resulting white solid was dissolved in CH2Cl2 (500 mL). The solution was then treated with a solution of HCl (4.0 N in 1,4-dioxane, 135 mL). The resulting heterogeneous suspension was then stirred at rt overnight. Upon evaporation of the solvents, the desired product was isolated as a white solid (33 g), which was used directly in the next step. [Note: the mass balance was found to be 104%, which arose from additional HCl that could not be removed by standard evaporation under vacuum]. 1H NMR (500 MHz, CD3OD): 4.77 (s, 1H), 4.55 (s, 1H), 3.69 (d, J=12.1 Hz, 1H), 3.64 (d, J=12.1 Hz, 1H), 3.47 (d, J=11.3 Hz, 1H), 3.40 (d, J=11.3 Hz, 1H), 2.22 (d, J=11.5 Hz, 1H), 2.15 (d, J=11.5 Hz, 1H).

reactant | (S,S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 179 mmol, 35.6 g | C(C)(C)(C)OC(=O)N1[C@@H]2CN[C@H](C1)C2 | C10H18N2O2
reactant | trimethylsilylisocyanate | 716 mmol, 82.5 g | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
product | (S,S)-2,5-Diaza-bicyclo[2.2.1]heptane-2-carboxylic acid amide hydrochloride | Cl.[C@@H]12N(C[C@@H](NC1)C2)C(=O)N | InChI=1S/C6H11N3O.ClH/c7-6(10)9-3-4-1-5(9)2-8-4;/h4-5,8H,1-3H2,(H2,7,10);1H/t4-,5-;/m0./s1
